US05773428
Alternatively, (3R,10S)-2-methoxycarbonyl-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid benzyl ester was taken up in ethanol (35 mL, some heating was required) and ammonium formate 1642 mg, 3 eq) was added followed by 10% Pd on activated charcoal (100 mg). After stirring under argon at room temperature for 3 hrs. the reaction was complete. The mixture was suction-filtered through a 1 cm bed of celite, then it was concentrated, MeOH was added and it was filtered through a plug of cotton. After concentrating, CH2Cl2 was added to the residue and it was stirred vigorously and then filtered. The filtrate was concentrated and recrystallized from ethyl acetate/pet. ether to give (3R,10S)-2-methoxycarbonyl-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid as a white solid (yield: 140 mg), MS: 500.3 (M+H)+.

reactant | (3R,10S)-2-methoxycarbonyl-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid benzyl ester | C(C1=CC=CC=C1)OC(C([C@@H](CC(C)C)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)C(=O)OC)=O | C34H43N3O6
reactant | ammonium formate | 1642 mg, 3 eq | C(=O)[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd on activated charcoal | 100 mg | [Pd] | Pd
product | (3R,10S)-2-methoxycarbonyl-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid | yield: 140 mg | COC(=O)C(C(=O)O)[C@@H](CC(C)C)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O | C27H37N3O6
